US07781436B2
N-(2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-ethyl)-methanesulfonamide
[1-(2-Amino-ethyl)-6-chloro-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone (preparation described herein), was treated with mesylchloride (1.05 eq) and triethylamine (1.05 eq) in CH2Cl2 under argon at RT to give after purification by prep. HPLC the title compound.

reactant | [1-(2-Amino-ethyl)-6-chloro-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | NCCN1C=C(C2=CC=C(C=C12)Cl)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C21H22ClFN4O
reactant | mesylchloride | 1.05 eq | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 1.05 eq | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-ethyl)-methanesulfonamide | ClC1=CC=C2C(=CN(C2=C1)CCNS(=O)(=O)C)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C22H24ClFN4O3S
